US04024175
A solution of 1aminomethyl-1-cyclohexane-acetic acid hydrochloride in n-butanol is saturated with hydrogen chloride at 0° C. The reaction mixture is then heated to 110° C for 2 hours while hydrogen chloride is passed through. The solution thus obtained is then evaporated at 60° C and the residue stirred up with hexane is filtered and dried. n-Butyl 1-aminomethyl-1-cyclohexane acetate hydrochloride is obtained in form of a white powder having a melting point of 106°-109° C.

reactant | 1aminomethyl-1-cyclohexane-acetic acid hydrochloride | Cl.NCC1(CCCCC1)CC(=O)O
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | C(CCC)O | C4H10O
product | n-Butyl 1-aminomethyl-1-cyclohexane acetate hydrochloride | Cl.NCC1(CCCCC1)CC(=O)OCCCC | InChI=1S/C13H25NO2.ClH/c1-2-3-9-16-12(15)10-13(11-14)7-5-4-6-8-13;/h2-11,14H2,1H3;1H
